US07049444B2
3-[6-Methyl-2-oxo-3-(3-phenylpropyl)-3-azabicyclo [3.1.0]hex-6-yl]-benzonitrile
To a solution of ethyl 3-(chloromethyl)-2-(3-cyanophenyl)-2-methylcyclopropanecarboxylate (Preparation 35, 170 mg, 0.62 mmol) in N,N-dimethylformamide (6.0 ml) at room temperature was added sodium hydrogen carbonate (52 mg, 0.62 mmol) followed by 3-phenylpropylamine (0.35 ml, 2.47 mmol). The mixture was heated at 100° C. for 6 h and under reflux for 5 h. After the mixture had cooled to room temperature, water (4 ml) was added and the aqueous layer was extracted with diethyl ether (3×4 ml). The combined ethereal extracts were dried (MgSO4), filtered and concentrated in vacuo. The crude oil was purified by silica column chromatography eluting with a gradient of hexane:ethyl acetate (50:50 to 0:100) to afford the title compound (80 mg, 40%) as a colourless oil.

reactant | ethyl 3-(chloromethyl)-2-(3-cyanophenyl)-2-methylcyclopropanecarboxylate | 0.62 mmol, 170 mg | ClCC1C(C1C(=O)OCC)(C)C1=CC(=CC=C1)C#N | C15H16ClNO2
reactant | sodium hydrogen carbonate | 0.62 mmol, 52 mg | C(O)([O-])=O.[Na+]
reactant | 3-phenylpropylamine | 2.47 mmol, 0.35 ml | C1(=CC=CC=C1)CCCN | C9H13N
reactant | water | 4 ml | O | H2O
solvent | N,N-dimethylformamide | 6.0 ml | CN(C=O)C | C3H7NO
product | 3-[6-Methyl-2-oxo-3-(3-phenylpropyl)-3-azabicyclo [3.1.0]hex-6-yl]-benzonitrile | 80 mg, 40% | CC1(C2CN(C(C12)=O)CCCC1=CC=CC=C1)C=1C=C(C#N)C=CC1 | C22H22N2O
